US07405210B2
Preparation 114: 2-(S)-Amino-3-(4-fluorophenyl)propionic acid tert-butyl ester hydrochloride
A stirred solution of ethyl acetate (10 mL) and methanol (0.60 mL, 14.7 mmol) was cooled to 0° C. under an argon atmosphere. Acetyl chloride (1.05 mL, 14.7 mmol) was added dropwise, and the solution warmed to rt and stirred for 30 min. 2-(S)-tert-butoxycarbonylamino-3-(4-fluorophenyl)propionic acid tert-butyl ester (Preparation 113, 1 g, 2.95 mmol) was added, and the reaction mixture stirred at rt for 4 h. The reaction mixture was filtered, washed several times with diethyl ether and dried under vacuum to give the title compound. δH (DMSO): 1.30 (9H, s), 3.01 (1H, dd), 3.20 (1H, dd), 4.08 (1H, m), 7.15 (2H, m), 7.32 (2H, m), 8.64 (3H, br s).

reactant | methanol | 14.7 mmol, 0.60 mL | CO | CH4O
reactant | Acetyl chloride | 14.7 mmol, 1.05 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-(S)-tert-butoxycarbonylamino-3-(4-fluorophenyl)propionic acid tert-butyl ester | 2.95 mmol, 1 g | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O | C18H26FNO4
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(S)-Amino-3-(4-fluorophenyl)propionic acid tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)F)N)=O | InChI=1S/C13H18FNO2.ClH/c1-13(2,3)17-12(16)11(15)8-9-4-6-10(14)7-5-9;/h4-7,11H,8,15H2,1-3H3;1H/t11-;/m0./s1
